US07851602B2
1-Chloro-4-(β-D-glucopyranos-1-yl)-2-{4-[(1-hydroxy-cyclopentyl)-ethynyl]-benzyl}-benzene
To a solution of 0.73 g 1-chloro-4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranos-1-yl)-2-[4-(1-hydroxy-cyclopentyl-ethynyl)-benzyl]-benzene in 4 mL methanol and 2 mL tetrahydrofuran is added 5.1 mL of a 1 M solution of sodium hydroxide in water. The reaction solution is stirred at ambient temperature for 1 h and then neutralized with 1 M hydrochloric acid. The solvent is removed and brine is added to the residue. The resulting mixture is extracted with ethyl acetate and the combined organic extracts are washed with water and brine and dried over sodium sulfate. After removal of the solvent in vacuo the product is yielded.

reactant | 1-chloro-4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranos-1-yl)-2-[4-(1-hydroxy-cyclopentyl-ethynyl)-benzyl]-benzene | 0.73 g | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)CC1=CC=C(C=C1)C#CC1(CCCC1)O | C34H37ClO11
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | methanol | 4 mL | CO | CH4O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1-Chloro-4-(β-D-glucopyranos-1-yl)-2-{4-[(1-hydroxy-cyclopentyl)-ethynyl]-benzyl}-benzene | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)C#CC1(CCCC1)O | C26H29ClO7
